US07977344B2
N2-Butyl-8-(methoxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-Purine-2,6-diamine
A mixture of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt, (200 mg) and potassium carbonate (236 mg) in dry DMF (2 mL) were heated at 60° C. with stirring for 1 h. 3-(2-Bromoethyl)tetrahydrofuran, Intermediate 83 (123 mg) was added and the reaction was continued for 2 h at 60° C. The mixture was quenched with water and extracted with EtOAc (×3). The combined organics were washed with water and brine, dried using a hydrophobic frit and evaporated to an oil (261 mg). This material was purified by flash chromatography (silica, 5-20% methanol:ethyl acetate) and the appropriate fractions combined and evaporated to give the title compound, yield 181 mg.

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 200 mg | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 236 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-Bromoethyl)tetrahydrofuran | BrCCC1COCC1 | C6H11BrO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N2-Butyl-8-(methoxy)-9-[2-(tetrahydro-3-furanyl)ethyl]-9H-Purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1COCC1)OC)N | C16H26N6O2
